US05686611
1-(5-Methoxytetrahydro-2-furyl)thymine (19)
To a suspension of thymine (2.5 g, 20 mmol) in hexamethyldisilazane (30 mL) was added ammonium sulfate (50 mg) and chlorotrimethylsilane (0.5 mL) and the mixture was heated at 145° C. for 4 hr under nitrogen. The excess hexamethyldisilazane was removed at reduced pressure, and the residual oil was dissolved in xylene and evaporated in vacuo to give a colorless viscous oil. To this silylated thymine in dichloroethane (40 mL) was added 2,5-dimethoxytetrahydrofuran (7 mL). After cooling the solution to -30° C., tin tetrachloride (2.3 mL) was added dropwise via a syringe under nitrogen. The mixture was allowed to warm to -10° C. and was then poured into ice cold aqueous sodium bicarbonate (100 mL) and ethyl acetate (150 mL). The mixture was filtered and the organic phase was separated and dried (MgSO4). The solvent was removed under reduced pressure and the residual oil was chromatographed on silica gel using CH2Cl2 /5% MeOH as eluent to give the title compound as a cis/trans mixture in a ratio of 1:1 as shown by analytical HPLC and 1H-NMR: yield 3.4 g (75%).

reactant | thymine | 20 mmol, 2.5 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | ammonium sulfate | 50 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | chlorotrimethylsilane | 0.5 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2,5-dimethoxytetrahydrofuran | 7 mL | COC1OC(CC1)OC | C6H12O3
reactant | tin tetrachloride | 2.3 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | hexamethyldisilazane | 30 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-Methoxytetrahydro-2-furyl)thymine | COC1CCC(O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O4
